US08314100B2
1-[(2,6,7-Trimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine (Compound 195)
Ethyl N-(2,6,7-trimethoxyquinoxalin-3-yl)carbamate and 1-(3-chlorophenyl)piperazine were reacted by the same way with the example 190 to obtain the titled compound (yield, 74%). 1H NMR (300 MHz, CDCl3) δ 3.29-3.31 (m, 4H), 3.79 (m, 4H), 3.97 (s, 3H), 4.00 (s, 3H), 4.12 (s, 3H), 6.82 (m, 1H), 6.86-6.88 (m, 1H), 6.89-6.91 (m, 1H), 7.14 (s, 1H), 7.19-7.22 (m, 3H).

reactant | Ethyl N-(2,6,7-trimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC(=C(C=C2N=C1NC(OCC)=O)OC)OC | C14H17N3O5
reactant | 1-(3-chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 1-[(2,6,7-Trimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine | 74% | COC1=NC2=CC(=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl)OC)OC | C22H24ClN5O4
